US07314936B2
Cyanogen bromide (0.55 g, 5.2 mmol) was added to a stirred solution of ethyl 5,6-diamino-4-chloro-2-pyridinecarbamate (intermediate for the preparation of 1, 1.00 g, 4.3 mmol) in 20 mL of ethanol at room temperature. The solution was stirred for 3 h and then at 60° C. for 3 h. The precipitate was filtered and washed with diethyl ether to give (2-amino-7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-carbamic acid ethyl ester (0.55 g, 38%) as a yellow powder. 1H NMR confirmed the structure.

reactant | Cyanogen bromide | 5.2 mmol, 0.55 g | N#CBr | CBrN
reactant | ethyl 5,6-diamino-4-chloro-2-pyridinecarbamate | NC=1C(=CC(=NC1N)NC(=O)OCC)Cl | C8H11ClN4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2-amino-7-chloro-3H-imidazo[4,5-b]pyridin-5-yl)-carbamic acid ethyl ester | 0.55 g, 38% | C(C)OC(NC1=CC(=C2C(=N1)NC(=N2)N)Cl)=O | C9H10ClN5O2
